US07910595B2
Ethyl 2-amino-2-(thiophen-2-yl)propanoate
Thionyl chloride (1 mL, 14.6 mmol) was added dropwise to 2-amino-2-(thiophen-2-yl)propanoic acid (0.500 g, 2.92 mmol) suspended in anhydrous ethanol (10 mL) at 0° then the reaction was heated at reflux for 22 hours. The reaction was concentrated by rotary evaporation, diluted with water (5 mL), adjusted pH to 9 with 6N aqueous sodium hydroxide, and extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed with brine (25 mL), dried over sodium sulfate, filtered, and concentrated by rotary evaporation to afford the title compound as an oil (0.498 g, 2.499 mmol, 86%). 1H NMR (300 MHz, DMSO-D6) δ ppm 1.17 (t, J=7.17 Hz, 3 H) 1.60 (s, 3 H) 2.53 (s, 2 H) 4.11 (q, J=7.23 Hz, 2 H) 6.91-6.98 (m, 1 H) 7.00 (dd, J=3.68, 1.10 Hz, 1 H) 7.37 (dd, J=5.15, 1.10 Hz, 1 H). MS (DCI) m/z 200 (M+H)+, 217 (M+NH4)−.

reactant | Thionyl chloride | 14.6 mmol, 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-2-(thiophen-2-yl)propanoic acid | 2.92 mmol, 0.500 g | NC(C(=O)O)(C)C=1SC=CC1 | C7H9NO2S
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | Ethyl 2-amino-2-(thiophen-2-yl)propanoate | 2.499 mmol, 0.498 g, 86% | NC(C(=O)OCC)(C)C=1SC=CC1 | C9H13NO2S
